US06159562
At room temperature, 3 ml of N,N-dimethylformamide (DMF) was placed in a flask, and 0.27 g of NaH (60% in oil) was added thereto. Then, 0.3 g (0.925 mmol) of 2,3,6,7,10,11-hexahydroxytriphenylene was added thereto, and after 1 hour of stirring, a mixture liquid of 1.96 g (6.84 mmol) of 4-methylhexyl p-toluenesulfonate and 2 ml of DMF was added dropwise thereto, followed by 5 hours of stirring at 70° C. After the reaction, the system was cooled to room temperature, and water was added thereto to precipitate a crystal, which was recovered by filtration. The crystal was then purified by silica gel chromatography (with toluene) and re-cystallized from acetone/methanol to obtain 0.24 g of 2,3,6,7,10,11-hexa(4-methylhexyloxy)triphenylene.

reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | NaH | 0.27 g | [H-].[Na+]
reactant | 2,3,6,7,10,11-hexahydroxytriphenylene | 0.925 mmol, 0.3 g | OC1=CC=2C3=CC(=C(C=C3C3=CC(=C(C=C3C2C=C1O)O)O)O)O | C18H12O6
reactant | 4-methylhexyl p-toluenesulfonate | 6.84 mmol, 1.96 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCC(CC)C)C | C14H22O3S
reactant | DMF | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2,3,6,7,10,11-hexa(4-methylhexyloxy)triphenylene | 0.24 g | CC(CCCOC1=CC=2C3=CC(=C(C=C3C3=CC(=C(C=C3C2C=C1OCCCC(CC)C)OCCCC(CC)C)OCCCC(CC)C)OCCCC(CC)C)OCCCC(CC)C)CC | C60H96O6
